US08471055B2
(s)-1-benzyloxy-4-[(1-methylheptyl)oxy]benzene.
Putting 4-benzyloxyphenol (5 g) and triphenyl phosphine (23.58 g) into a two-neck bottle (500 mL), and then vacuuming for 1 hour. Under the protection of nitrogen, adding dichloromethane (150 mL) followed by stirring to dissolve. Adding diethyl azodicarboxylate (22.73 g) into the bottle on ice bath followed by stirring. Adding (s)-2-octylchloride (13.36 g), reacting 24 hours under room temperature. Extracting by water and dichloromethane, drying with anhydrous magnesium sulfate, removing the solvent by a rotary vacuum evaporator, column chromatography of the crude product is carried out to gain a pure target compound (19.41 g). The yield is about 83%.

reactant | 4-benzyloxyphenol | 5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | triphenyl phosphine | 23.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 22.73 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (s)-2-octylchloride | 13.36 g | C[C@@H](CCCCCC)Cl | C8H17Cl
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (s)-1-benzyloxy-4-[(1-methylheptyl)oxy]benzene | yield is about 83% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O[C@H](CCCCCC)C | C21H28O2
